US07153848B2
2-Bromo-3-cyclohexyl-N-[(dimethylamino)sulfonyl]-1H-indole-6-carboxamide
1,1′-Carbonyldiimidazole (1.17 g, 7.2 mmol) was added to a stirred solution of 2-bromo-3-cyclohexyl-1H-indole-6-carboxylic acid (2.03 g, 6.3 mmol) in THF (6 mL) at 22□ C. The evolution of CO2 was instantaneous and when it slowed the solution was heated at 50° C. for 1 hr and then cooled to 22□ C. N,N-Dimethylsulfamide (0.94 g, 7.56 mmol) was added followed by the dropwise addition of a solution of DBU (1.34 g, 8.8 mmol) in THF (4 mL). Stirring was continued for 24 hr. The mixture was partitioned between ethyl acetate and dilute HCl. The ethyl acetate layer was washed with water followed by brine and dried over Na2SO4. The extract was concentrated to dryness to leave the titled product as a pale yellow friable froth (2.0 g, 74%) of substantial purity (90%). 1H NMR (300 MHz, DMSO-D6) □ ppm 1.28–1.49 (m, 3 H) 1.59–2.04 (m, 7 H) 2.74–2.82 (m, 1 H) 2.88 (s, 6 H) 7.57 (dd, J=8.42, 1.46 Hz, 1 H) 7.74 (d, J=8.78 Hz, 1 H) 7.91 (s, 1 H) 11.71 (s, 1 H) 12.08 (s, 1 H).

reactant | 1,1′-Carbonyldiimidazole | 7.2 mmol, 1.17 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-bromo-3-cyclohexyl-1H-indole-6-carboxylic acid | 6.3 mmol, 2.03 g | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)O | C15H16BrNO2
reactant | CO2 | C(=O)=O | CO2
reactant | N,N-Dimethylsulfamide | 7.56 mmol, 0.94 g | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | DBU | 8.8 mmol, 1.34 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-Bromo-3-cyclohexyl-N-[(dimethylamino)sulfonyl]-1H-indole-6-carboxamide | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)NS(=O)(=O)N(C)C | C17H22BrN3O3S
